US07576212B2
Meldrum's acid (1.05 g, 7.3 mmol) was added to triethyl orthoformate (50 ml) and stirred at 30° C. for 1 hr. The reaction mixture was cooled to room temperature and 4-phenyl-thiophene-2-yl-amine (1.07 g, 6.1 mmol) was added in portions. The reaction mixture was heated to 85° C. and stirred at this temperature overnight before cooling to room temperature. The solvent was removed in vacuo to give a residue which was dissolved in DCM and treated with potassium carbonate. After stirring for 30 min the mixture was filtered and the solvent removed in vacuo to give 2,2-dimethyl-5-[(4-phenyl-thiophen-2-ylamino)-methylene]-[1,3]dioxane-4,6-dione. Yield=1.41 g (70%).

reactant | Meldrum's acid | 7.3 mmol, 1.05 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | triethyl orthoformate | 50 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | 4-phenyl-thiophene-2-yl-amine | 6.1 mmol, 1.07 g | C1(=CC=CC=C1)C=1C=C(SC1)N | C10H9NS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-5-[(4-phenyl-thiophen-2-ylamino)-methylene]-[1,3]dioxane-4,6-dione | CC1(OC(C(C(O1)=O)=CNC=1SC=C(C1)C1=CC=CC=C1)=O)C | C17H15NO4S
